US09278973B2
To a solution of 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine (100 mg, 0.51 mmol) in n-BuOH (1 ml) was added ethyl 3-(4-chloro-3-methoxyphenyl)-3-oxopropanoate (200 mg, 0.78 mmol) and TsOH (5 mg, 0.02 mmol), and the resulting mixture was stirred overnight at 130° C. The solids were collected by filtration and washed with methanol (2×5 ml) to afford 5-(4-chloro-3-methoxyphenyl)-2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a light yellow solid (56.6 mg, 28%).

reactant | 3-(4-chlorophenyl)-1H-1,2,4-triazol-5-amine | 0.51 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NNC(=N1)N | C8H7ClN4
reactant | ethyl 3-(4-chloro-3-methoxyphenyl)-3-oxopropanoate | 0.78 mmol, 200 mg | ClC1=C(C=C(C=C1)C(CC(=O)OCC)=O)OC | C12H13ClO4
reactant | TsOH | 0.02 mmol, 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | n-BuOH | 1 ml | CCCCO | C4H10O
product | 5-(4-chloro-3-methoxyphenyl)-2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 56.6 mg, 28% | ClC1=C(C=C(C=C1)C=1NC=2N(C(C1)=O)N=C(N2)C2=CC=C(C=C2)Cl)OC | C18H12Cl2N4O2
